US05814644
A mixture of 2-(3-chloropropionylamino)benzyltriphenylphosphonium bromide (2.70 g, 5 mmol) and phenylpiperazine (1.70 g, 10 mmol) in acetonitrile (85 ml) was heated at reflux for 2.5 h. The mixture was cooled to room temperature and filtered and the filtrate evaporated in vacuo to give 2-(3-[4-phenylpiperazin-1-yl]propionylamino) benzyltriphenylphosphonium bromide as a white solid (3.1 g, 93%).

reactant | 2-(3-chloropropionylamino)benzyltriphenylphosphonium bromide | 5 mmol, 2.70 g | [Br-].ClCCC(=O)NC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | phenylpiperazine | 10 mmol, 1.70 g | C=1C=CC(=CC1)N2CCNCC2 | C10H14N2
solvent | acetonitrile | 85 ml | C(C)#N | C2H3N
product | 2-(3-[4-phenylpiperazin-1-yl]propionylamino) benzyltriphenylphosphonium bromide | 3.1 g, 93% | [Br-].C1(=CC=CC=C1)N1CCN(CC1)CCC(=O)NC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C38H38N3OP.BrH/c42-38(25-26-40-27-29-41(30-28-40)33-16-5-1-6-17-33)39-37-24-14-13-15-32(37)31-43(34-18-7-2-8-19-34,35-20-9-3-10-21-35)36-22-11-4-12-23-36;/h1-24H,25-31H2;1H
